US04604407
N-Hydroxy-N-phenylbenzenebutanamide
To a stirring solution of 3-phenylpropylcarboxylic acid (500 mg, 3.1 mmol) in 10 ml of dry benzene under argon was added oxalyl chloride (0.30 ml, 1.1 eq.). To this solution was added dimethylformamide dropwise in 10 minute intervals, until no gas was evolved and the solution turned slightly cloudy (2 drops). The mixture was stirred for 1 hour then reduced on the rotovap without heating. The crude product was diluted with 5 ml of tetrahydropyran and added dropwise to a 0° C. solution of N-phenylhydroxylamine (666 mg, 2 eq.) in 20 ml of THF:H2O (1:1) with triethylamine (0.85 ml, 2.0 eq.). The solution was stirred for 1 hour at 0° C. then allowed to warm to room temperature and stir overnight. The reaction mixture was diluted with EtOAc and the organic layer was washed with H2O, 1N HCl (2X), and brine, then dried over anhydrous MgSO4. Concentration in vacuo gave a white solid which was recrystallized from hot hexane/EtOAc, to give title product (451 mg, 58%) as a flat golden crystalline solid.

reactant | 3-phenylpropylcarboxylic acid | 3.1 mmol, 500 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | oxalyl chloride | 0.30 ml, 1.1 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-phenylhydroxylamine | 666 mg, 2 eq. | C1(=CC=CC=C1)NO | C6H7NO
reactant | triethylamine | 0.85 ml, 2.0 eq. | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydropyran | 5 ml | O1CCCCC1 | C5H10O
solvent | THF H2O | 20 ml | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Hydroxy-N-phenylbenzenebutanamide | 451 mg, 58% | ON(C(CCCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H17NO2
